US04954339
Ethylchloroformate (18.3 ml) was added slowly to a solution of heptanoic acid (20.0 g) and triethylamine (26.7 ml) in tetrahydrofuran (250 ml), maintained at -10°. The resulting mixture was stirred at 10° for 0.75 hour, cooled to 5° and a 33% solution of dimethylamine in ethanol (41.6 ml) added dropwise. This mixture was then allowed to warm to room temperature and stirred for 4 hours. The mixture was filtered and the filtrate evaporated to dryness. The residue was dissolved in chloroform (250 ml) and washed with 1% aqueous sodium carbonate solution (200 ml) and water, then dried and evaporated. The residual oil was chromatographed on silica gel to give N,N-dimethylheptanamide (14.1 g) as a colourless oil.

reactant | Ethylchloroformate | 18.3 ml | C(C)OC(=O)Cl | C3H5ClO2
reactant | heptanoic acid | 20.0 g | C(CCCCCC)(=O)O | C7H14O2
reactant | triethylamine | 26.7 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | ethanol | 41.6 ml | C(C)O | C2H6O
product | N,N-dimethylheptanamide | 14.1 g | CN(C(CCCCCC)=O)C | C9H19NO
